Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"I want to go home."
 
Major Surgical or Invasive Procedure:
None.
 
History of Present Illness:
___ y/o woman with a h/o PTSD, suicide attempts and 
self-injurious behavior presented to the ___ ED s/p sexual 
assault by 2 coworkers. The patient reports being drugged and 
raped last night, and one of these men have been arrested. While 
being evaluated by ED staff, the patient made multiple 
statements about feeling suicidal.  The patient currently admits 
to making these statements, though now states she meant them 
passively. She states that she currently does not have any plan 
or intent, but likes to keep suicide in the back of her mind as 
a last resort option, or "way out if things get bad." She states 
that she usually feels suicidal when she feels lonely, and told 
the social worker today that she was afraid of feeling lonely 
this weekend.  The patient's therapist is currently out of town, 
as is her roommate and best friend. The patient endorses 
depression since her last hospitalization in ___, and 
endorses low appetite, poor energy, feelings of worthlessness 
and hopelessness, anhedonia, and disrupted sleep. Describes 
nightmares and flashbacks x ___ years relating back to sexual 
harrassment by her father. ___ any AVH or manic symptoms. The 
patient states her biggest concern is going back to work if her 
coworkers will be there. 
 
Past Medical History:
No known past medical history.
.
Past Psychiatric History:
- Reports depression since age ___ and diagnosed with PTSD 
earlier this year, though has had symptoms for ___ years.
- No h/o manic or psychotic symptoms.
- 2 prior inpatient psychiatric hospitalizations. First in 
___ ___ after suicide attempt x 4 weeks, second 
in ___ x 3 days for suicidal ideation. States she was in a 
residential program at ___ for women with history of trauma x 
2.5 weeks in ___.
- Reports 2 prior suicide attempts, first at age ___ by OD on 40 
ibuprofen tablets over the course of a morning (ended up 
sleeping
it off and never told anyone). Most recently was in ___ by OD 
on 80 aspirin, which resulted in ___ overnight stay in ___ ICU and 
then transfer to ___ inpatient psychiatric unit.
- Self-injurious behavior: cuts or burns herself about 2x per 
month for emotional relief, last cutting was 2 weeks ago, which 
required stitches. 
- Psychiatrist is Dr. ___ in ___, who she has only 
seen once.
- Therapist is ___, who she sees twice per week for 
the past 1.5 months.
 
Social History:
The patient grew up as ___ only child to married parents in 
___, ___. She finished high school and went to ___ 
in ___ for engineering this ___, but then transferred to 
___. Left ___ after 4 week psychiatric hospitalization this 
___. States she plans to attend ___ part-time starting in 
___ and study Biology. Currently works as a ___ and 
___ at ___. She reports her father sexually 
___ her growing up and she has not had contact with him 
for ___ years. Notes her mother was physically abusive but she 
still talks to her about twice per week and her mother supports 
her financially. Lives in ___ ___ with a roommate in ___ 
currently. Denies legal issues.
.
Substance use history: 
- Currently smokes ___ ppd cigarettes.
- Has been drinking ___ shots hard alcohol per night x 2 weeks. 
Denies blackouts or h/o prior abuse, but does often fall asleep 
and forget to take her prazosin at night.
- Marijuana once every other week.
- Denies other illiit drug use.
 
Family History:
Denies any family psychiatric history or suicide.
 
Physical Exam:
Vitals at presentation: 100.1, 82, 114/73, 14, 100% RA. 
Female resting in bed, minimially cooperative.  No diaphoresis, 
no tremors, no evidence of intoxication.  Speech terse.  Mood 
"fine" c ___ angry affect.  Thoughts organized, non-psychotic.  
Minimized statements re suicide, maintains that she is always 
keeping suicide open as ___ option, guarded re plans, but noted 
that she has knives.  No thoughts of harming others voiced. 
Insight poor, judgment poor. 
.
Cognition: alert though drowsly, oriented x 3
   Attention: MOYB intact
   Memory: ___ registration and ___ recall after 5 min
   Fund of knowledge: intact
   Calculations: intact
   Abstraction: grass greener= "other people's situations always 
look better than yours"
   Language: fluent
.
Constitutional: Comfortable
HEENT: Pupils equal, round and reactive to light, 
Normocephalic, atraumatic
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft
GU/Flank: No costovertebral angle tenderness, pelvic exam 
deferred
Extr/Back: No cyanosis, clubbing or edema
Skin: No rash
Neuro: Speech fluent
Psych: Normal mood, Normal mentation
 
Pertinent Results:
              WBC  RBC  Hgb  Hct  MCV  MCH   Plt Ct 
___    6.0  4.51 12.3 36.7 81*  27.4  290 
              Glucose UreaN Creat Na   K    Cl   HCO3 AnGap 
___    89      11    0.8   141  4.3  106  28    11 
ALT 18   AST 23   AP 60   Tbili 0.3
HCG neg
Serum tox neg
urine tox neg
UA unremarkable
Hepatitis B/C pending
 
Brief Hospital Course:
#) Psychiatric: Ms. ___ is ___ ___ y/o woman with a 
history of PTSD stemming from sexual, emotional, and physical 
abuse who presented to the ___ ED by EMS s/p a rape trauma 
earlier evening. Psychiatry was consulted in the emergency 
department after she expressed suicidal ideation to both EMS and 
the emergency department staff. She was subsequently put on 
___ requiring inpatient psychiatric hospitalization for a 
safety evaluation in the context of her 2 past suicide attempts 
___ at age ___, second in ___ both by overdose), 
recent deep cutting of her wrist two weeks ago requiring 
stitches in the context of relationship distress, ongoing poor 
social supports, escalating alcohol intake (about 3 shots of 
hard alcohol per night), and a pattern of behaviors and coping 
strategies suggestive of a borderline personality disorder. On 
the inpatient unit, Ms. ___ consistently denied active 
suicidality, but demonstrated very limited insight into her 
recent dangers behaviors, ongoing limited ability to cope with 
trauma and stress (outside of drinking), low frustration 
tolerance, and limited supports. The outpatient therapist, 
___, was contacted and felt that the patient currently 
needs additional support to be safe in the community. Upon 
evaluation it was felt that further admission was warranted for 
ongoing stabilization and safety in the context of her poor 
functioning in the past few weeks and now with her limited 
processing of  her sexual assault. Concern was risen about the 
appropriateness of the milieu here at ___ for the patient 
given her recent rape and the patient desired a transfer to 
___ given her prior positive experience there after her 
suicide attempt several months ago. A transfer was arranged for 
the patient to be admitted to the Women's Unit at ___ for 
further stabilization. She will be transferred on a CV and a 
section 3. 

#) HIV prophylaxis: The patient should continue on HIV 
prophylaxis for a total of 7 days (see discharge meds below). 
She was medically evaluated at the ___ emergency room. 
 
Medications on Admission:
- Prazosin 6 mg PO QHS (for nightmares, intermittently 
compliant)
- Fluoxetine 40 mg PO daily
- Abilify 10 mg PO daily (started about 2 months ago)
- OCP
 
Discharge Medications:
1. lamivudine-zidovudine 150-300 mg Tablet Sig: One (1) Tablet 
PO BID (2 times a day) for 7 doses.  
2. lopinavir-ritonavir 200-50 mg Tablet Sig: One (1) Tablet PO 
BID (2 times a day) for 7 doses.  
3. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
4. aripiprazole 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. levonorgestrel-ethinyl estrad 0.15-30 mg-mcg Tablet Sig: One 
(1) Tablet PO daily as needed for contraceptive.  
6. prazosin 2 mg Capsule Sig: Three (3) Capsule PO HS (at 
bedtime).  
 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
DSM
Axis I: PTSD.
Axis II: Borderline personal traits, r/o borderline personality 
disorder.
Axis III: No acute medical issues.
Axis IV: Primary supports in the context of sexual assault, 
recent assault, work stressor (patient works with men that 
assaulted her)
Axis V: 30

 
Discharge Condition:
Improved, as evidenced by adequate behavioral control with 
willingness to engage in treatment at ___. Denies 
active suicidality. No evidence of psychosis. Denies HI. Denies 
urges to hurt others. Insight/judgment: Poor, as evidenced by 
her poor coping skills and emotional dysregulation in the 
context of severe social stress. 

 
Discharge Instructions:
You were in the hospital for a safety evaluation after a 
traumatic experience. You were transfered from ___ to 
___ for ongoing treatment.
.
It will be very important that you to continue to work with the 
doctors at ___ and follow up with a comprehensive outpatient 
aftercare plan. 
.
When you get discharged from the hospital, if you feel suicidal, 
overwhelmed, or have urges to cut/burn yourself, you should call 
your outpatient providers, call ___, or visit your nearest 
emergency department.
 
Followup Instructions:
___